US04820834
(R)-N-(2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-3-methoxybenzenacetamide
The procedure of Example 134 was carried out using equivalent amounts of 3-(R)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and 3-methoxyphenylacetyl chloride. The product was purified by chromatography on silica gel (hexane-ethyl acetate elution). The combined product fractions were evaporated to dryness in vacuo and crystallized to give the title compound which was dried at 65° C.: m.p. 198°-199° C.

reactant | 3-(R)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | 3-methoxyphenylacetyl chloride | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
product | (R)-N-(2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-3-methoxybenzenacetamide | CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(CC2=CC(=CC=C2)OC)=O)=O | C25H23N3O3
